2189-04-10 07:16:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2189-4-9**] 12:35 PM
   Extubated successfully
   Late afternoon began having difficulty clearing secretions, dropping
   sats to low 80s (ABG 7.38/60/59), improved with chest PT, suctioning
   Intermittent fluctuations in 02 sats
   Very hesitant to be re-intubated
   Started meropenem empirically
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2189-4-10**] 04:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-4-9**] 08:56 PM
   Heparin Sodium (Prophylaxis) - [**2189-4-9**] 09:31 PM
   Morphine Sulfate - [**2189-4-10**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Respiratory: Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria
   Heme / Lymph: No(t) Lymphadenopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Flowsheet Data as of  [**2189-4-10**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98.1
   HR: 87 (79 - 106) bpm
   BP: 142/46(69) {112/36(53) - 155/58(78)} mmHg
   RR: 13 (12 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    108 mL
                                                                    174 mL
   PO:
             TF:
   IVF:
                                                                    108 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                    755 mL
                                                                    420 mL
   Urine:
                                                                    755 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -647 mL
                                                                   -246 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 381 (364 - 381) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 80%
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: 7.38/60/59/31/7
   NIF: -50 cmH2O
   Ve: 5.1 L/min
   PaO2 / FiO2: 74
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   366 K/uL
   7.5 g/dL
   76 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.9 mEq/L
   14 mg/dL
   96 mEq/L
   137 mEq/L
   22.8 %
   10.1 K/uL
        [image002.jpg]
                             [**2189-4-8**]  10:56 PM
                             [**2189-4-9**]  03:12 AM
                             [**2189-4-9**]  04:32 PM
                             [**2189-4-10**]  03:18 AM
   WBC
   13.1
   10.1
   Hct
   24.0
   22.8
   Plt
   418
   366
   Cr
   0.7
   0.6
   TCO2
   34
   37
   Glucose
   75
   76
   Other labs: PT / PTT / INR:12.6/26.4/1.1, Ca++:8.7 mg/dL, Mg++:2.1
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Mrs. [**Known lastname 6713**] is a 66 y/o female with a PMH of PVD, HTN,
   hyperlipidemia, COPD admitted with large left proximal PICA aneurysm
   now s/p coiling, hospital course complicated by aspiration of barium
   with resultant aspiration pneumonia with episodic mucous plugging and
   desaturation.
   .
   #.Respiratory Failure
 Extubated yesterday but still with intermittent
   mucouse plugging.  Patient also had recent aspiration pneumonia with
   thick secretions, completed 14 days vanc/zosyn on [**4-7**].  She is s/p G
   tube [**2189-4-8**] and may have had poor cough [**2-9**] abdominal pain and
   splinting.  She was rapidly weaned off the vent but has been tenuous
   last night.  Issue is ability to cough effectively.
   -Cont high flow 02
   -Albuterol, ipratropium nebs standing
   -Mucomyst prn
   -? Dysphagia.  Likely related to neuro issues.  Swallow to re-eval on
   Monday
   - Cont meropenem until cx neg x48hrs
   .
   #Dysphagia s/p G tube placement:  G tube working well, but held TFs
   given tenuous status last night.  Likely related to PICA aneurysm and
   coiling.  Also generally weak and deconditioned.
   - Restart Tfs today
   .
   #. L PICA aneurysm s/p coiling - Some residual left sided weakness per
   report, not tested at time of ICU transfer.  Serial head CT post
   procedure stable.
   - will likely need rehab given residual deficits
   - PT consult
   .
   # Urinary retention: she has had urinary retention ont
   - Urine Cx with >100 K yeast - consider diflucan
   - Foley replaced
   - Will likely go to rehab with foley and have Urology f/u
   .
   #. Left kidney cysts and left adrenal incidentaloma:
   - consider MRI for further characterization
   .
   #. PVD s/p SMA stenting [**8-15**]: bare metal stent
   - plavix and ASA stopped on [**3-30**], ? for GTube
   .
   #. Hyperlipidemia:
   - continue statin
   .
   #. Hypertension:
   - Cont PO dilt
   .
   #.Anxiety/Depression: pt has had depression during this admission.
   - continue citalopram 20mg daily
   - continue xanax 0.5mg prn
   .
   #. FEN
 Plan to restart tube feeds today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2189-4-8**] 09:46 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU for now

2189-04-12 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Increased bowel regimen as no BM in several days
   restarted her aspirin, plavix
   chest pt, acapella, stood at side of bed, incentive spirometry
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2189-4-12**] 06:23 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-4-11**] 07:58 AM
   Heparin Sodium (Prophylaxis) - [**2189-4-11**] 08:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: Tube feeds
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, Constipation
   Musculoskeletal: No(t) Joint pain
   Heme / Lymph: No(t) Lymphadenopathy
   Neurologic: No(t) Numbness / tingling
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2189-4-12**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 85 (77 - 90) bpm
   BP: 138/52(72) {122/39(62) - 155/56(76)} mmHg
   RR: 13 (11 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,861 mL
                                                                  1,540 mL
   PO:
             TF:
                                                                    640 mL
                                                                    333 mL
   IVF:
                                                                    551 mL
                                                                    677 mL
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                    430 mL
   Urine:
                                                                  1,510 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    351 mL
                                                                  1,110 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///33/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   expiratory, Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   358 K/uL
   7.8 g/dL
   127 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.3 mEq/L
   17 mg/dL
   97 mEq/L
   137 mEq/L
   24.2 %
   8.9 K/uL
        [image002.jpg]
                             [**2189-4-8**]  10:56 PM
                             [**2189-4-9**]  03:12 AM
                             [**2189-4-9**]  04:32 PM
                             [**2189-4-10**]  03:18 AM
                             [**2189-4-11**]  04:15 AM
                             [**2189-4-11**]  07:49 AM
                             [**2189-4-12**]  03:52 AM
   WBC
   13.1
   10.1
   9.7
   8.0
   8.9
   Hct
   24.0
   22.8
   19.9
   23.9
   24.2
   Plt
   [**Telephone/Fax (3) 6780**]70
   358
   Cr
   0.7
   0.6
   0.6
   0.5
   TCO2
   34
   37
   Glucose
   75
   76
   91
   127
   Other labs: PT / PTT / INR:12.6/26.4/1.1, Alk Phos / T Bili:/0.2,
   Differential-Neuts:81.7 %, Lymph:10.4 %, Mono:5.1 %, Eos:2.5 %,
   Fibrinogen:590 mg/dL, LDH:166 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Mrs. [**Known lastname 6713**] is a 66 y/o female with a PMH of PVD, HTN,
   hyperlipidemia, COPD admitted with large left proximal PICA aneurysm
   now s/p coiling, hospital course complicated by aspiration of barium
   with resultant aspiration pneumonia with episodic mucous plugging and
   desaturation.
   .
   #.Respiratory Failure
 likely [**2-9**] recurrent mucous plugging with poor
   strength and weak cough making it hard for her to clear her
   secretions.  She has had several episodes of desaturation since
   extubation [**2-9**] mucus plugging which improves with chest pt and deep
   suctioning.  Of note she completed 14 days vanc/zosyn on [**4-7**] for her
   aspiration pneumonia.  She is s/p G tube [**2189-4-8**] and has abdominal pain
   since contributing to her poor cough. Meropenam started on [**4-10**] due to
   episodes of hypoxia and thick purulent secretions as well as slight
   increase in WBC with low grade fever.
   -Cont high flow 02
   -Albuterol, ipratropium nebs standing
   -Mucomyst prn
   - Cont meropenem until cx neg x48hrs, resend sputum cx as last one was
   cancelled for contamination
   -chest PT
   -incentive spirometer
   -acapella device
   -talk with respiratory about cough assist (MIE)
   -OOB
   .
   #Dysphagia s/p G tube placement:  G tube working well, but held TFs
   given tenuous status last night.  Likely related to PICA aneurysm and
   brainstem compression.  Also generally weak and deconditioned.
   -          continue  Tfs today
   -          -would benefit from repeat swallow study at rehab once
   strength improved
   .
   #. L PICA aneurysm s/p coiling - Serial head CT post procedure stable.
   - will likely need rehab given residual deficits
   - PT consult
   .
   # Urinary retention: she has had urinary retention on transfer
   - Urine Cx with >100 K yeast - consider diflucan, repeat UA and
   culture, consider changing foley if continues to have yeast
   - Foley replaced
   - Will likely go to rehab with foley and have Urology f/u
   -repeat UA and culture (although has been on long course of abx)
   .
   #. Left kidney cysts and left adrenal incidentaloma:
   - consider MRI for further characterization
   .
   #. PVD s/p SMA stenting [**8-15**]: bare metal stent
   -          plavix and ASA stopped on [**3-30**], ? for GTube
   -          -could likely restart (tb w/neuron/GI)
   .
   #. Hyperlipidemia:
   - continue statin
   .
   #. Hypertension/tachycardia:
   - Cont PO dilt
   .
   #.Anxiety/Depression: pt has had depression during this admission.
   - continue citalopram 20mg daily
   - continue xanax 0.5mg prn
   .
   #. FEN
 Plan to restart tube feeds today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2189-4-8**] 09:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2189-04-13 07:50:00 Physician Resident Progress Note
Chief Complaint: aneurysm s/p coiling, aspiration pna/barium s/p PEG
   24 Hour Events:
   D/Cd Meropenem
   Increased Celexa to 40mg daily
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2189-4-12**] 06:23 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2189-4-12**] 07:48 AM
   Heparin Sodium (Prophylaxis) - [**2189-4-12**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO, Tube feeds
   Respiratory: Dyspnea, improved
   Neurologic: depressed
   Flowsheet Data as of  [**2189-4-13**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.6
   HR: 81 (66 - 82) bpm
   BP: 124/45(66) {85/37(56) - 145/112(97)} mmHg
   RR: 15 (13 - 21) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  3,292 mL
                                                                    602 mL
   PO:
                  TF:
                                                                  1,082 mL
                                                                    342 mL
   IVF:
                                                                    840 mL
   Blood products:
   Total out:
                                                                  1,730 mL
                                                                    760 mL
   Urine:
                                                                  1,730 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,562 mL
                                                                   -158 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 88%
   ABG: ///32/
   Physical Examination
   General Appearance: Thin, awake and talkative under mask
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal) no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, peg in place c/d
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   378 K/uL
   8.2 g/dL
   105 mg/dL
   0.5 mg/dL
   32 mEq/L
   4.3 mEq/L
   15 mg/dL
   97 mEq/L
   136 mEq/L
   25.8 %
   7.2 K/uL
        [image002.jpg]
                             [**2189-4-8**]  10:56 PM
                             [**2189-4-9**]  03:12 AM
                             [**2189-4-9**]  04:32 PM
                             [**2189-4-10**]  03:18 AM
                             [**2189-4-11**]  04:15 AM
                             [**2189-4-11**]  07:49 AM
                             [**2189-4-12**]  03:52 AM
                             [**2189-4-13**]  04:19 AM
   WBC
   13.1
   10.1
   9.7
   8.0
   8.9
   7.2
   Hct
   24.0
   22.8
   19.9
   23.9
   24.2
   25.8
   Plt
   [**Telephone/Fax (3) 6780**]70
   358
   378
   Cr
   0.7
   0.6
   0.6
   0.5
   0.5
   TCO2
   34
   37
   Glucose
   75
   76
   91
   127
   105
   Other labs: PT / PTT / INR:12.5/28.1/1.1, Alk Phos / T Bili:/0.2,
   Differential-Neuts:81.7 %, Lymph:10.4 %, Mono:5.1 %, Eos:2.5 %,
   Fibrinogen:590 mg/dL, LDH:166 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.6 mg/dL
   Imaging: last CXR [**4-11**]- RLL atelectasis
   Microbiology: [**4-12**] sputum-  NO MICROORGANISMS SEEN.
   Assessment and Plan
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Mrs. [**Known lastname 6713**] is a 66 y/o female with a PMH of PVD, HTN,
   hyperlipidemia, COPD admitted with large left proximal PICA aneurysm
   now s/p coiling, hospital course complicated by aspiration of barium
   with resultant aspiration pneumonia with episodic mucous plugging and
   desaturation s/p PEG
   .
   .
   #.Respiratory Failure
 likely [**2-9**] recurrent mucous plugging with poor
   strength and weak cough making it hard for her to clear her
   secretions.  She has had several episodes of desaturation since
   extubation [**2-9**] mucus plugging which improves with chest pt and deep
   suctioning.  Of note she completed 14 days vanc/zosyn on [**4-7**] for her
   aspiration pneumonia.  She is s/p G tube [**2189-4-8**] and has abdominal pain
   since contributing to her poor cough. Meropenam started on [**4-10**] due to
   episodes of hypoxia and thick purulent secretions as well as slight
   increase in WBC with low grade fever.
   -Cont high flow 02
   -Albuterol, ipratropium nebs standing
   -Mucomyst prn
   -chest PT
   -incentive spirometer
   -acapella device
   -MIE not feasible
   -OOB
   .
   #Dysphagia s/p G tube placement:  G tube working well,  TF at goal.
   Likely related to PICA aneurysm and brainstem compression.  Also
   generally weak and deconditioned.
   - continue  TFs
   - would benefit from repeat swallow study at rehab once strength
   improved -> plan for repeat today
   - aggressive bowel regimen, add miralax
   .
   #. L PICA aneurysm s/p coiling - Serial head CT post procedure stable.
   - will need rehab given residual deficits
   - PT consult
   .
   # Anemia- HCT range 22-28, stable at 25 today
   - monitor, no signs of GIB
   .
   # Urinary retention: she has had urinary retention on transfer
   - Foley replaced
   - Will likely go to rehab with foley and have Urology f/u
   .
   #. Left kidney cysts and left adrenal incidentaloma:
   - consider MRI for further characterization  as outpatient
   .
   #. PVD s/p SMA stenting [**8-15**]: bare metal stent
   - Plavix and ASA restarted
   .
   #. Hyperlipidemia:
   - continue statin
   .
   #. Hypertension/tachycardia:
   - Cont PO dilt
   .
   #.Anxiety/Depression: pt has had depression during this admission.
   - continue citalopram, increased to 40mg daily
   - continue xanax 0.5mg prn
   - social work following
   .
   #. FEN
 Tolerating tube feeds, at goal
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2189-4-13**] 05:33 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2189-4-8**] 09:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2189-04-14 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   hold off videoswallow guven resp status
   yeast in sputum
   no desaturation episodes as of 300am
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2189-4-12**] 06:23 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-4-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: Tube feeds
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, Constipation
   Genitourinary: No(t) Dysuria, Foley
   Integumentary (skin): No(t) Rash
   Heme / Lymph: No(t) Lymphadenopathy
   Neurologic: No(t) Numbness / tingling
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2189-4-14**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.9
   HR: 89 (78 - 91) bpm
   BP: 153/54(80) {112/37(66) - 157/110(117)} mmHg
   RR: 18 (13 - 20) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,693 mL
                                                                    378 mL
   PO:
                  TF:
                                                                  1,083 mL
                                                                    348 mL
   IVF:
   Blood products:
   Total out:
                                                                  2,115 mL
                                                                    600 mL
   Urine:
                                                                  2,115 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -422 mL
                                                                   -222 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ///31/
   Physical Examination
   General Appearance: Thin, awake, short sentences
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal) no m/r/g
   Peripheral Vascular: ( (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   408 K/uL
   8.1 g/dL
   111 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.0 mEq/L
   18 mg/dL
   97 mEq/L
   134 mEq/L
   24.9 %
   7.9 K/uL
        [image002.jpg]
                             [**2189-4-8**]  10:56 PM
                             [**2189-4-9**]  03:12 AM
                             [**2189-4-9**]  04:32 PM
                             [**2189-4-10**]  03:18 AM
                             [**2189-4-11**]  04:15 AM
                             [**2189-4-11**]  07:49 AM
                             [**2189-4-12**]  03:52 AM
                             [**2189-4-13**]  04:19 AM
                             [**2189-4-14**]  04:48 AM
   WBC
   13.1
   10.1
   9.7
   8.0
   8.9
   7.2
   7.9
   Hct
   24.0
   22.8
   19.9
   23.9
   24.2
   25.8
   24.9
   Plt
   [**Telephone/Fax (3) 6780**]70
   358
   378
   408
   Cr
   0.7
   0.6
   0.6
   0.5
   0.5
   0.5
   TCO2
   34
   37
   Glucose
   75
   76
   91
   127
   105
   111
   Other labs: PT / PTT / INR:12.5/28.1/1.1, Alk Phos / T Bili:/0.2,
   Differential-Neuts:81.7 %, Lymph:10.4 %, Mono:5.1 %, Eos:2.5 %,
   Fibrinogen:590 mg/dL, LDH:166 IU/L, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.8 mg/dL
   Micro: [**4-9**] and [**4-12**] sputum with sparse yeast
   Assessment and Plan
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Mrs. [**Known lastname 6713**] is a 66 y/o female with a PMH of PVD, HTN,
   hyperlipidemia, COPD admitted with large left proximal PICA aneurysm
   now s/p coiling, hospital course complicated by aspiration of barium
   with resultant aspiration pneumonia with episodic mucous plugging and
   desaturation s/p PEG
   .
   #.Respiratory Failure
 likely [**2-9**] recurrent mucous plugging with poor
   strength and weak cough making it hard for her to clear her
   secretions.  She has had several episodes of desaturation since
   extubation [**2-9**] mucus plugging which improves with chest pt and deep
   suctioning.  Of note she completed 14 days vanc/zosyn on [**4-7**] for her
   aspiration pneumonia.  She is s/p G tube [**2189-4-8**] and has abdominal pain
   since contributing to her poor cough. Meropenam started on [**4-10**] due to
   episodes of hypoxia and thick purulent secretions as well as slight
   increase in WBC with low grade fever.
   -wean off high flow oxygen
   -Albuterol, ipratropium nebs standing
   -Mucomyst prn
   -chest PT
   -incentive spirometer
   -acapella device
   -MIE not feasible
   -OOB, needs aggressive PT
   .
   #Dysphagia s/p G tube placement:  G tube working well,  TF at goal.
   Likely related to PICA aneurysm and brainstem compression.  Also
   generally weak and deconditioned.
   - continue  TFs
   - would benefit from repeat swallow study at rehab once strength
   improved -> plan for repeat today
   - aggressive bowel regimen, add miralax prn
   .
   #. L PICA aneurysm s/p coiling - Serial head CT post procedure stable.
   - will need rehab given residual deficits
   - PT consult, aggrressively
   .
   # Anemia- HCT range 22-28, stable at 25 today
   - monitor, no signs of GIB
   .
   # Urinary retention: she has had urinary retention on transfer
   - Foley replaced
   - Will likely go to rehab with foley and have Urology f/u
   .
   #. Left kidney cysts and left adrenal incidentaloma:
   - consider MRI for further characterization  as outpatient
   .
   #. PVD s/p SMA stenting [**8-15**]: bare metal stent
   - Plavix and ASA restarted
   .
   #. Hyperlipidemia:
   - continue statin
   .
   #. Hypertension/tachycardia:
   - Cont PO dilt
   .
   #.Anxiety/Depression: pt has had depression during this admission.
   - continue citalopram, increased to 40mg daily
   - continue xanax 0.5mg prn
   - social work following
   - consult psychiatry
   .
   #. FEN
 Tolerating tube feeds, at goal
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2189-4-14**] 03:42 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2189-4-8**] 09:46 PM
   Prophylaxis:
   DVT: heparin sq
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU for now

2189-04-15 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Called psychiatry consult, however couldn't see her until tomorrow
   morning.
   Weaned off face mask to nasal cannula throughout the day
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-4-14**] 11:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Nutritional Support: Tube feeds
   Respiratory: Cough, Dyspnea, No(t) Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t)
   Constipation
   Integumentary (skin): No(t) Jaundice
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2189-4-15**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36
C (96.8
   HR: 78 (75 - 92) bpm
   BP: 128/39(61) {113/35(59) - 157/110(118)} mmHg
   RR: 15 (12 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,712 mL
                                                                    738 mL
   PO:
                  TF:
                                                                  1,082 mL
                                                                    338 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,555 mL
                                                                    780 mL
   Urine:
                                                                  1,555 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    157 mL
                                                                    -42 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: Thin, awake, short sentences
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal) no m/r/g
   Peripheral Vascular: ( (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   438 K/uL
   7.8 g/dL
   98 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.2 mEq/L
   19 mg/dL
   96 mEq/L
   134 mEq/L
   23.0 %
   9.0 K/uL
        [image002.jpg]
                             [**2189-4-8**]  10:56 PM
                             [**2189-4-9**]  03:12 AM
                             [**2189-4-9**]  04:32 PM
                             [**2189-4-10**]  03:18 AM
                             [**2189-4-11**]  04:15 AM
                             [**2189-4-11**]  07:49 AM
                             [**2189-4-12**]  03:52 AM
                             [**2189-4-13**]  04:19 AM
                             [**2189-4-14**]  04:48 AM
                             [**2189-4-15**]  04:01 AM
   WBC
   13.1
   10.1
   9.7
   8.0
   8.9
   7.2
   7.9
   9.0
   Hct
   24.0
   22.8
   19.9
   23.9
   24.2
   25.8
   24.9
   23.0
   Plt
   [**Telephone/Fax (3) 6780**]70
   358
   378
   408
   438
   Cr
   0.7
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   34
   37
   Glucose
   75
   76
   91
   127
   105
   111
   98
   Other labs: PT / PTT / INR:12.2/47.5/1.0, Alk Phos / T Bili:/0.2,
   Differential-Neuts:81.7 %, Lymph:10.4 %, Mono:5.1 %, Eos:2.5 %,
   Fibrinogen:590 mg/dL, LDH:166 IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Mrs. [**Known lastname 6713**] is a 66 y/o female with a PMH of PVD, HTN,
   hyperlipidemia, COPD admitted with large left proximal PICA aneurysm
   now s/p coiling, hospital course complicated by aspiration of barium
   with resultant aspiration pneumonia with episodic mucous plugging and
   desaturation s/p PEG
   .
   #.Respiratory Failure
 likely [**2-9**] recurrent mucous plugging with poor
   strength and weak cough making it hard for her to clear her
   secretions.  She has had several episodes of desaturation since
   extubation [**2-9**] mucus plugging which improves with chest pt and deep
   suctioning.  Of note she completed 14 days vanc/zosyn on [**4-7**] for her
   aspiration pneumonia.  She is s/p G tube [**2189-4-8**] and has abdominal pain
   since contributing to her poor cough. Meropenam started on [**4-10**] due to
   episodes of hypoxia and thick purulent secretions as well as slight
   increase in WBC with low grade fever.
   -wean off high flow oxygen
   -Albuterol, ipratropium nebs standing
   -Mucomyst prn
   -chest PT
   -incentive spirometer
   -acapella device
   -MIE not feasible
   -OOB, needs aggressive PT
   .
   #Dysphagia s/p G tube placement:  G tube working well,  TF at goal.
   Likely related to PICA aneurysm and brainstem compression.  Also
   generally weak and deconditioned.
   - continue  TFs
   - would benefit from repeat swallow study at rehab once strength
   improved -> plan for repeat once resp status maximized
   - aggressive bowel regimen, add miralax prn
   .
   #.Anxiety/Depression: pt has had depression during this admission.
   Appears to be affecting overall motivation
   - continue citalopram, increased to 40mg daily
   - continue xanax 0.5mg prn
   - social work following
   - psychiatry consulted, will see today if here
   .
   #. L PICA aneurysm s/p coiling - Serial head CT post procedure stable.
   - will need rehab given residual deficits
   - PT consult, aggrressively
   .
   # Anemia- HCT range 22-28, stable at 25 today
   - monitor, no signs of GIB
   .
   # Urinary retention: she has had urinary retention on transfer
   - Foley replaced
   - Will likely go to rehab with foley and have Urology f/u
   .
   #. Left kidney cysts and left adrenal incidentaloma:
   - consider MRI for further characterization  as outpatient
   .
   #. PVD s/p SMA stenting [**8-15**]: bare metal stent
   - Plavix and ASA restarted
   .
   #. Hyperlipidemia:
   - continue statin
   .
   #. Hypertension/tachycardia:
   - Cont PO dilt
   .
   #. FEN
 Tolerating tube feeds, at goal
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2189-4-15**] 01:53 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2189-4-8**] 09:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: rehab if bed available

2189-04-16 07:44:00 Physician Resident Progress Note
Chief Complaint: Aspiration PNA
   24 Hour Events:
   [**4-15**]
   - Written for guiafenesin
   - Was going to go to rehab, but family very concerned that she will
   bounce back, so decided to keep in house
   - Psych recs: Cont celexa.  Can add remeron 7.5mg qHS once resp status
   improved.  Cont low dose benzo.  Check TSH.  F/u at rehab
   - Had another episode of anxiety followed by plugging with desat to
   60s.  Improved with 0.5mg ativan and deep suctioning.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2189-4-15**] 07:55 AM
   Heparin Sodium (Prophylaxis) - [**2189-4-15**] 04:00 PM
   Lorazepam (Ativan) - [**2189-4-15**] 07:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, depressed
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2189-4-16**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 81 (79 - 99) bpm
   BP: 131/42(62) {114/39(62) - 145/94(105)} mmHg
   RR: 14 (13 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,901 mL
                                                                      4 mL
   PO:
                  TF:
                                                                  1,081 mL
                                                                      4 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,835 mL
                                                                    400 mL
   Urine:
                                                                  1,835 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     66 mL
                                                                   -396 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: right, Rhonchorous:
   b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   494 K/uL
   7.6 g/dL
   118 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.6 mEq/L
   18 mg/dL
   95 mEq/L
   134 mEq/L
   22.8 %
   10.2 K/uL
        [image002.jpg]
                             [**2189-4-9**]  03:12 AM
                             [**2189-4-9**]  04:32 PM
                             [**2189-4-10**]  03:18 AM
                             [**2189-4-11**]  04:15 AM
                             [**2189-4-11**]  07:49 AM
                             [**2189-4-12**]  03:52 AM
                             [**2189-4-13**]  04:19 AM
                             [**2189-4-14**]  04:48 AM
                             [**2189-4-15**]  04:01 AM
                             [**2189-4-16**]  04:35 AM
   WBC
   13.1
   10.1
   9.7
   8.0
   8.9
   7.2
   7.9
   9.0
   10.2
   Hct
   24.0
   22.8
   19.9
   23.9
   24.2
   25.8
   24.9
   23.0
   22.8
   Plt
   [**Telephone/Fax (3) 6780**]70
   358
   378
   [**Telephone/Fax (3) 6866**]
   Cr
   0.7
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   37
   Glucose
   75
   76
   91
   127
   105
   111
   98
   118
   Other labs: PT / PTT / INR:12.2/47.5/1.0, Alk Phos / T Bili:/0.2,
   Differential-Neuts:81.7 %, Lymph:10.4 %, Mono:5.1 %, Eos:2.5 %,
   Fibrinogen:590 mg/dL, LDH:166 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.7 mg/dL
   Imaging: none
   Microbiology: none
   Assessment and Plan
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Mrs. [**Known lastname 6713**] is a 66 y/o female with a PMH of PVD, HTN,
   hyperlipidemia, COPD admitted with large left proximal PICA aneurysm
   now s/p coiling, hospital course complicated by aspiration of barium
   with resultant aspiration pneumonia with episodic mucous plugging and
   desaturation s/p PEG
   .
   #.Respiratory Failure
 likely [**2-9**] recurrent mucous plugging with poor
   strength and weak cough making it hard for her to clear her
   secretions.  She has had several episodes of desaturation since
   extubation [**2-9**] mucus plugging which improves with chest pt and deep
   suctioning.  Of note she completed 14 days vanc/zosyn on [**4-7**] for her
   aspiration pneumonia.  She is s/p G tube [**2189-4-8**] given concern for high
   aspiration risk.
   -wean off high flow oxygen
   -Albuterol, ipratropium nebs standing
   -Mucomyst TID to assist with breaking up secretions
   -chest PT
   -incentive spirometer
   -acapella device
   -OOB, needs aggressive PT
   -check CXR
   .
   #Dysphagia s/p G tube placement:  G tube working well,  TF at goal.
   Likely related to PICA aneurysm and brainstem compression.  Also
   generally weak and deconditioned.
   - continue  TFs
   - would benefit from repeat swallow study at rehab once strength
   improved -> plan for repeat once resp status maximized
   - aggressive bowel regimen, add miralax prn
   .
   #.Anxiety/Depression: pt has had depression during this admission.
   Appears to be affecting overall motivation
   - continue citalopram, increased to 40mg daily
   - continue xanax 0.5mg prn
   - social work following
   - psychiatry consulted, remeron once resp status stable
   -check TSH, f/u with psych as an outpatient
   .
   #. L PICA aneurysm s/p coiling - Serial head CT post procedure
   stable,
   - will need rehab given residual deficits
   - PT consult
   .
   # Anemia- HCT range 22-28, stable at 25 today
   - monitor, no signs of GIB
   .
   # Urinary retention: she has had urinary retention since transfer to
   ICU
   - will remove foley and try voiding trial, may require straight cath
   for 24-48 hours until bladder function resumes
   .
   #. Left kidney cysts and left adrenal incidentaloma:
   - consider MRI for further characterization  as outpatient
   .
   #. PVD s/p SMA stenting [**8-15**]: bare metal stent
   - Plavix and ASA
   .
   #. Hyperlipidemia:
   - continue statin
   .
   #. Hypertension/tachycardia:
   - Cont PO dilt
   ICU Care
   Nutrition: Tolerating tube feeds, at goal
   Glycemic Control:
   Lines:
   PICC Line - [**2189-4-8**] 09:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  with patient and husband
   [**Name (NI) 36**] status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. Single episode of
   desaturation last night. Stable since.
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) **], MD
   on:[**2189-4-16**] 14:46 ------

2189-04-17 08:02:00 Physician Resident Progress Note
Chief Complaint: Aspiration PNA
   24 Hour Events:
   [**4-16**]
   - to rehab in AM, d/w husband
   - CXR unchanged prior- bibasilar atelectasis
   - TSH 7, added on free T4
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2189-4-16**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2189-4-17**] 07:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-17**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 83 (80 - 92) bpm
   BP: 127/49(69) {97/33(53) - 142/96(104)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                  1,387 mL
                                                                    481 mL
   PO:
                  TF:
                                                                    977 mL
                                                                    361 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,095 mL
                                                                      0 mL
   Urine:
                                                                  1,095 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    292 mL
                                                                    482 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   494 K/uL
   7.6 g/dL
   118 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.6 mEq/L
   18 mg/dL
   95 mEq/L
   134 mEq/L
   22.8 %
   10.2 K/uL
        [image002.jpg]
                             [**2189-4-9**]  03:12 AM
                             [**2189-4-9**]  04:32 PM
                             [**2189-4-10**]  03:18 AM
                             [**2189-4-11**]  04:15 AM
                             [**2189-4-11**]  07:49 AM
                             [**2189-4-12**]  03:52 AM
                             [**2189-4-13**]  04:19 AM
                             [**2189-4-14**]  04:48 AM
                             [**2189-4-15**]  04:01 AM
                             [**2189-4-16**]  04:35 AM
   WBC
   13.1
   10.1
   9.7
   8.0
   8.9
   7.2
   7.9
   9.0
   10.2
   Hct
   24.0
   22.8
   19.9
   23.9
   24.2
   25.8
   24.9
   23.0
   22.8
   Plt
   [**Telephone/Fax (3) 6780**]70
   358
   378
   [**Telephone/Fax (3) 6866**]
   Cr
   0.7
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   37
   Glucose
   75
   76
   91
   127
   105
   111
   98
   118
   Other labs: PT / PTT / INR:12.2/47.5/1.0, Alk Phos / T Bili:/0.2,
   Differential-Neuts:81.7 %, Lymph:10.4 %, Mono:5.1 %, Eos:2.5 %,
   Fibrinogen:590 mg/dL, LDH:166 IU/L, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.7 mg/dL
   Assessment and Plan
 .H/O ABDOMINAL COMPARTMENT SYNDROME / INTRAABDOMINAL HYPERTENSION
   (IAH, ACS)
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Mrs. [**Known lastname 6713**] is a 66 y/o female with a PMH of PVD, HTN,
   hyperlipidemia, COPD admitted with large left proximal PICA aneurysm
   now s/p coiling, hospital course complicated by aspiration of barium
   with resultant aspiration pneumonia with episodic mucous plugging and
   desaturation s/p PEG
   .
   #.Respiratory Failure
 likely [**2-9**] recurrent mucous plugging with poor
   strength and weak cough making it hard for her to clear her
   secretions.  She has had several episodes of desaturation since
   extubation [**2-9**] mucus plugging which improves with chest pt and deep
   suctioning.  Of note she completed 14 days vanc/zosyn on [**4-7**] for her
   aspiration pneumonia.  She is s/p G tube [**2189-4-8**] given concern for high
   aspiration risk.
   -wean off high flow oxygen
   -Albuterol, ipratropium nebs standing
   -Mucomyst TID to assist with breaking up secretions
   -chest PT
   -incentive spirometer
   -acapella device
   -OOB, needs aggressive PT
   -check CXR
   .
   #Dysphagia s/p G tube placement:  G tube working well,  TF at goal.
   Likely related to PICA aneurysm and brainstem compression.  Also
   generally weak and deconditioned.
   - continue  TFs
   - would benefit from repeat swallow study at rehab once strength
   improved -> plan for repeat once resp status maximized
   - aggressive bowel regimen, add miralax prn
   .
   #.Anxiety/Depression: pt has had depression during this admission.
   Appears to be affecting overall motivation
   - continue citalopram, increased to 40mg daily
   - continue xanax 0.5mg prn
   - social work following
   - psychiatry consulted, remeron once resp status stable
   -check TSH, f/u with psych as an outpatient
   .
   #. L PICA aneurysm s/p coiling - Serial head CT post procedure
   stable,
   - will need rehab given residual deficits
   - PT consult
   .
   # Anemia- HCT range 22-28, stable at 25 today
   - monitor, no signs of GIB
   .
   # Urinary retention: she has had urinary retention since transfer to
   ICU
   - will remove foley and try voiding trial, may require straight cath
   for 24-48 hours until bladder function resumes
   .
   #. Left kidney cysts and left adrenal incidentaloma:
   - consider MRI for further characterization  as outpatient
   .
   #. PVD s/p SMA stenting [**8-15**]: bare metal stent
   - Plavix and ASA
   .
   #. Hyperlipidemia:
   - continue statin
   .
   #. Hypertension/tachycardia:
   - Cont PO dilt
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2189-4-17**] 05:29 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2189-4-8**] 09:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility